US08183246B2
6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid
Stir 1.0 g (3.0 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine, 0.78 g (5.94 mmol) 6-aminohexanoic acid and 1.5 ml DIEA in 10 ml DMF overnight at 120° C. Add the reaction mixture to water and extract three times with ethyl acetate. Combine the organic phases and wash with saturated sodium chloride solution, dry over magnesium sulphate and concentrate by vacuum evaporation. Chromatograph the residue on silica gel (solvent: cyclohexane/ethyl acetate 2:1→1:2). 560 mg (43.7% of theor.) of the target compound is obtained.

reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 3.0 mmol, 1.0 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | 6-aminohexanoic acid | 5.94 mmol, 0.78 g | NCCCCCC(=O)O | C6H13NO2
reactant | DIEA | 1.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC(=O)O)C2=CC=CC=C2 | C25H25N3O4
